* extracted by klt extract --deck sky130
* parasitic model (--parasitics):
* - capacitance: net-to-ground for every net's own (non-coupled) area/perimeter, plus net-to-net for the vertical-overlap coupling `coupling` describes below -- a coupled net pair gets a direct capacitor between their two hub nodes, not just capacitors to the deck's ground/substrate net
* - coupling: vertical overlap (crossover) unconditionally -- where one net's conductor on an adjacent metal level sits directly over another *distinct* net's conductor, that overlap area is charged between the two nets instead of to ground (issue #760) -- plus lateral (same-layer, sidewall) coupling, but only for a net pair naming one of the caller's declared `--critical-net` nets (issue #976): facing-edge length within that layer's own minimum-spacing lookback is charged between the two nets, *additively* (not deducted from either net's substrate fringe term, unlike the vertical case -- a known simplification). Any same-layer pair with neither side named `--critical-net`, and fringe shielding in general, are still not modelled
* - resistance: single lumped series resistance per net, distributed as a star across that net's device terminals (issue #592) -- not a per-segment, distributed RC ladder, *unless* `--distributed-rc` names this net via `--critical-net` (issue #977, Epic #709 Phase 2b): then the net's terminals are ordered along their approximate physical spread and its total R/C is broken into a chain of per-segment resistors (segment length proportional to inter-terminal distance) with a ground capacitor at each terminal node (proportional to its adjacent segment length/2), instead of one star hub -- still an approximation (terminal position is a device-placement proxy, not true per-segment routing geometry), but a strictly finer-grained one than the single-hub star
* - frequency: quasi-static -- one frequency-independent R and C per net; no skin effect, no distributed transmission-line behavior

* cell sampler_tg
* pin a
* pin b
* pin ctrl
* pin ctrlb
* pin vdd
* pin vss
.SUBCKT sampler_tg a b ctrl ctrlb vdd vss
* device instance $1 r0 *1 0.545,0.21 nfet
X$1 a__t0 ctrlb__t0 b__t0 vss__t0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42
+ AS=0.1974 AD=0.1974 PS=1.78 PD=1.78
* device instance $2 r0 *1 0.545,3.53 pfet
X$2 a__t1 ctrl__t0 b__t1 vdd__t0 sky130_fd_pr__pfet_01v8 L=0.15 W=0.84
+ AS=0.3948 AD=0.3948 PS=2.62 PD=2.62
* device instance a_t0 r0 *1 0,0 
Ra_t0 a__t0 a 207.64565
* device instance a_t1 r0 *1 0,0 
Ra_t1 a__t1 a 207.64565
* device instance a r0 *1 0,0 
Ca a vsubs 6.09871e-16
* device instance b_t0 r0 *1 0,0 
Rb_t0 b__t0 b 170.151
* device instance b_t1 r0 *1 0,0 
Rb_t1 b__t1 b 170.151
* device instance b r0 *1 0,0 
Cb b vsubs 5.20427e-16
* device instance ctrl_t0 r0 *1 0,0 
Rctrl_t0 ctrl__t0 ctrl 106.9048
* device instance ctrl r0 *1 0,0 
Cctrl ctrl vsubs 2.48823e-16
* device instance ctrlb_t0 r0 *1 0,0 
Rctrlb_t0 ctrlb__t0 ctrlb 106.9048
* device instance ctrlb r0 *1 0,0 
Cctrlb ctrlb vsubs 2.48823e-16
* device instance vdd_t0 r0 *1 0,0 
Rvdd_t0 vdd__t0 vdd 146.3855
* device instance vdd r0 *1 0,0 
Cvdd vdd vsubs 5.50619e-16
* device instance vss_t0 r0 *1 0,0 
Rvss_t0 vss__t0 vss 146.3855
* device instance vss r0 *1 0,0 
Cvss vss vsubs 5.50619e-16
* device instance vsubs_dctie r0 *1 0,0 
Rvsubs_dctie vsubs 0 1e+12
.ENDS sampler_tg
